US08648081B2
Stir a mixture of methyl 2-(3-(5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-4,5,6,7-tetrahydrobenzo[c]thiophene-1-carboxamido)acetate (534 mg, 1.0 mmol) and LiOH—H2O (168 mg, 4.0 mmol) in MeOH (20 mL) and water (5 mL) at room temperature for overnight. After removal of organic solvent under vacuum, dilute the residue with ice water (10 mL). Acidify the aqueous mixture with conc. HCl to pH=1, and extract the resultant mixture with EtOAc (15 mL×3). The combined organic layers are washed brine, dried over anhydrous Na2SO4 and concentrated under vacuum. Purify the residue by silica gel chromatograph (PE:EtOAc 1:1) to afford 2-(3-(5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-4,5,6,7-tetrahydrobenzo[c]thiophene-1-carboxamido)acetic acid as a pale yellow solid (427 mg, 82.0%). MS (m/z): 521 (M+1).

reactant | methyl 2-(3-(5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-4,5,6,7-tetrahydrobenzo[c]thiophene-1-carboxamido)acetate | 1.0 mmol, 534 mg | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=C2C(=C(S1)C(=O)NCC(=O)OC)CCCC2)C(F)(F)F | C22H19Cl2F3N2O4S
reactant | LiOH—H2O | 4.0 mmol, 168 mg | O[Li].O
solvent | MeOH | 20 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 2-(3-(5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-4,5,6,7-tetrahydrobenzo[c]thiophene-1-carboxamido)acetic acid | 427 mg, 82.0% | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=C2C(=C(S1)C(=O)NCC(=O)O)CCCC2)C(F)(F)F | C21H17Cl2F3N2O4S
